US08030489B2
To a mixture of ethyl 1-ethyl-4-methyl-1H-pyrrole-2-carboxylate (0.66 g), methanol (5.0 ml), and THF (5.0 ml) was added a 1 M aqueous sodium hydroxide solution (5.0 ml) under ice-cooling, followed by stirring at room temperature for 8.5 days. Water was added to the reaction mixture and the solvent was removed by evaporation under reduced pressure. The residue was washed with diethyl ether, and citric acid was added to the aqueous layer under ice-cooling. The solid precipitated was collected by filtration, washed with water, and dried to obtain 1-ethyl-4-methyl-1H-pyrrole-2-carboxylic acid (0.44 g).

reactant | ethyl 1-ethyl-4-methyl-1H-pyrrole-2-carboxylate | 0.66 g | C(C)N1C(=CC(=C1)C)C(=O)OCC | C10H15NO2
reactant | methanol | 5.0 ml | CO | CH4O
reactant | THF | 5.0 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 5.0 ml | [OH-].[Na+]
solvent | Water | O | H2O
product | 1-ethyl-4-methyl-1H-pyrrole-2-carboxylic acid | 0.44 g | C(C)N1C(=CC(=C1)C)C(=O)O | C8H11NO2
